US07544685B2
A mixture of 5-(pyridin-4-yl)-1H-indole (17.2 g, 0.089 mol), 1-[(S)-3-(2-bromoethyl)-2,3-dihydro-1H-indol-1-yl]-ethanone (28.5 g, 0.11 mol), 1,4-dioxane (900 mL), tetrahydrofuran (150 mL) and methanol (100 mL) was heated under reflux at approximately 80° C. for 68 h. The mixture was cooled, and the solid formed was collected by filtration and washed with tetrahydrofuran. The compound was dried in vacuo to give 1-[2-((S)-1-acetyl-2,3-dihydro-1H-indol-3-yl)ethyl]-4-(1H-indol-5-yl)pyridinium bromide (27.5 g, 64%), which was suspended in methanol (900 mL) and cooled (5° C.). To this mixture was added sodium borohydride (6.75 g, 0.18 mol) over a period of 20 min. The resulting mixture was stirred at 10° C. for 1 h and concentrated to about 200 mL. The mixture was poured onto a mixture of brine (750 mL) and 28% aqueous sodium hydroxide (20 mL), and the aqueous phase was extracted with a mixture of ethyl acetate and tetrahydrofuran. The combined organic phase was washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate/tetrahydrofuran/triethylamine 70:25:5) to give 1-((S)-3-{2-[4-(1H-indol-5-yl)-3,6-dihydro-2H-piperidin-1-yl]ethyl}-2,3-dihydro-1H-indol-1-yl)-ethanone (20.5 g, 85%). This compound (8.0 g, 0.02 mol) was dissolved in 1-propanol (220 mL) and heated to 60° C. To this mixture was added 28% aqueous sodium hydroxide, and the resulting mixture was boiled under reflux for 7 h. The mixture was cooled and poured onto brine. The aqueous phase was extracted with a mixture of ethyl acetate and tetrahydrofuran, and the combined organic phase was washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was combined with a residue coming from another experiment starting from 1 g of 1-((S)-3-{2-[4-(1H-indol-5-yl)-3,6-dihydro-2H-piperidin-1-yl]ethyl}-2,3-dihydro-1H-indol-1-yl)-ethanone. The combined residue was purified by flash chromatography (ethyl acetate/triethylamine 95:5) to give the title compound (4.95 g).

reactant | 5-(pyridin-4-yl)-1H-indole | 0.089 mol, 17.2 g | N1=CC=C(C=C1)C=1C=C2C=CNC2=CC1 | C13H10N2
reactant | 1-[(S)-3-(2-bromoethyl)-2,3-dihydro-1H-indol-1-yl]-ethanone | 0.11 mol, 28.5 g | BrCC[C@@H]1CN(C2=CC=CC=C12)C(C)=O | C12H14BrNO
reactant | 1,4-dioxane | 900 mL | O1CCOCC1 | C4H8O2
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
product | 1-[2-((S)-1-acetyl-2,3-dihydro-1H-indol-3-yl)ethyl]-4-(1H-indol-5-yl)pyridinium bromide | 27.5 g, 64% | [Br-].C(C)(=O)N1C[C@H](C2=CC=CC=C12)CC[N+]1=CC=C(C=C1)C=1C=C2C=CNC2=CC1 | InChI=1S/C25H23N3O.BrH/c1-18(29)28-17-22(23-4-2-3-5-25(23)28)11-15-27-13-9-19(10-14-27)20-6-7-24-21(16-20)8-12-26-24;/h2-10,12-14,16,22H,11,15,17H2,1H3;1H/t22-;/m1./s1
